US05385906
A 250 ml flame dried round bottom flask is equipped with a pressure equalizing addition funnel, magnetic stirring bar, and gas inlet. The flask is charged with a 50% sodium hydride-in-oil suspension (3.74 g, 78.0 mmol) along with 20 ml of dry THF. The slurry of NaH is cooled to 0° C. with an ice bath and a solution of 2,4-dichloro-5-fluoroacetophenone (7.8 g, 37.6 mmol) in 100 ml of diethylcarbonate (100 ml) is added slowly (dropwise) to the slurry of NaH. After the addition is complete the mixture is stirred at room temperature until gas evolution ceases (30 minutes). The deep red-orange solution is then heated to 80° C. for 1.5 hours. The reaction mixture is poured into an ice-cold water (250 ml) solution containing acetic acid (8 ml). The mixture is extracted (3×150 ml) with ether, dried over Na2SO4, and concentrated to an orange oil. The oil is distilled at high vacuum (1 mmHg 133°-135° C.). 7.9 g of ethyl 2,4-dichloro-5-fluorobenzoylacetate is obtained as a light yellow oil.

reactant | sodium hydride | 78.0 mmol, 3.74 g | [H-].[Na+]
reactant | THF | 20 ml | C1CCOC1 | C4H8O
reactant | 2,4-dichloro-5-fluoroacetophenone | 37.6 mmol, 7.8 g | CC(=O)C1=CC(=C(C=C1Cl)Cl)F | C8H5Cl2FO
reactant | acetic acid | 8 ml | C(C)(=O)O | C2H4O2
solvent | diethylcarbonate | 100 ml | C(C)OC(OCC)=O | C5H10O3
product | ethyl 2,4-dichloro-5-fluorobenzoylacetate | 7.9 g | ClC1=C(C(=O)CC(=O)OCC)C=C(C(=C1)Cl)F | C11H9Cl2FO3
